US07294644B2
5-(2,5-Dimethoxy-phenyl)-1-[2-(3-fluoro-phenyl)-ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2,5-dimethoxy-phenyl)-ethanone as compound of formula S, 3-fluoro-phenethylamine as R3—(CH2)m—NH2 and 1-piperidinamine as R1R2NH, MS (ISP) 466.3 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2,5-dimethoxy-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)OC)OC | C10H11BrO3
reactant | 3-fluoro-phenethylamine | FC=1C=C(CCN)C=CC1 | C8H10FN
reactant | 1-piperidinamine | N1(CCCCC1)N | C5H12N2
product | 5-(2,5-Dimethoxy-phenyl)-1-[2-(3-fluoro-phenyl)-ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid piperidin-1-ylamide | N1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)OC)OC)CCC1=CC(=CC=C1)F)C | C27H32FN3O3
